US04711952
(a) Benzyloxycarbonylasparaginyl-phenylalanine methylester
A solution of benzyloxycarbonylasparagine (13.3 g; 50 mmoles), N-ethylpiperidine (7.0 ml) and pyridine (5.0 ml) in dichloromethane (100 ml) cooled to -20° C. is treated under constant stirring with pivaloylchloride (6.3 ml); the mixture is then stirred and cooled (0° C.) for 8 minutes. After that, within 2 to 3 minutes, a solution of phenylalanine methyl ester, liberated from its hydrochloride (10.7 g; 50 mmoles) by the addition of N-ethylpiperidine (7.0 ml), in dichlormethane (100 ml) is added. The reaction mixture is stirred for an additional 2 hours at room temperature, the precipitated crystalline substance is collected on filter and triturated successively with 1 M hydrochloric acid, water, 5% aqueous sodium hydrogencarbonate solution and water. Crystallization from methanol yields 14.5 g (68%) of the title product, melting at 196° -197° C. An analytical sample is crystallized from dimethylformamide and 2-propanol, and the m.p. remains unchanged. Chromatography: Rf 0.71/S1, 0.75/S2. Optical rotation [α]D20 -2.0° (c 0.2; dimethylformamide). The elemental composition corresponds to the summary formula C22H25N3O6.

reactant | benzyloxycarbonylasparagine | 50 mmoles, 13.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
reactant | N-ethylpiperidine | 7.0 ml | C(C)N1CCCCC1 | C7H15N
reactant | pivaloylchloride | 6.3 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | hydrochloride | 50 mmoles, 10.7 g | Cl | ClH
reactant | N-ethylpiperidine | 7.0 ml | C(C)N1CCCCC1 | C7H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichlormethane | 100 ml | ClCCl | CH2Cl2
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | Benzyloxycarbonylasparaginyl-phenylalanine methylester | 14.5 g, 68% | COC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)CC1=CC=CC=C1)=O | C22H25N3O6
